US08242130B2
1-(2-methoxy pyridine-3-yl)-3-(4-nitrophenyl) propane-1,3-dione (2.16 g, 7.193 mmol) and pyridinium hydrochloride (12.47 g, 107.9 mmol) were mixed together and stirred at 190° C. for 2 h under nitrogen atmosphere. The reaction mixture was cooled to rt. Water (100 mL) was added, the solid was separated by filtration, washed with water and dried under vacuum. The crude compound was purified by column chromatography (SilicaGel 230-400 mesh; 2-5% methanol in CH2Cl2 as eluent) to give 2-(4-nitrophenyl)-4H-pyrano[2,3-b]pyridine-4-one as a brown solid in 43% yield (0.82 g). MS (ES) m/z: 268.88 (M); Mp. 261-263° C.

reactant | 1-(2-methoxy pyridine-3-yl)-3-(4-nitrophenyl) propane-1,3-dione | 7.193 mmol, 2.16 g | COC1=NC=CC=C1C(CC(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C15H12N2O5
reactant | pyridinium hydrochloride | 107.9 mmol, 12.47 g | Cl.[NH+]1=CC=CC=C1
solvent | Water | 100 mL | O | H2O
product | 2-(4-nitrophenyl)-4H-pyrano[2,3-b]pyridine-4-one | 43% yield | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC(C=2C(=NC=CC2)O1)=O | C14H8N2O4
